US08232300B2
(2) 6-[(5,6,6a,7,8,9-Hexahydro-4H-2-phenalenyl)carbamoyl]nicotinic acid
A suspension of methyl 6-[(5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)carbamoyl]nicotinate (0.194 g) in ethanol (10 ml) was added with 2 N aqueous sodium hydroxide (2 ml), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was made acidic with 2 N aqueous hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was recrystallized from ethyl acetate-n-hexane to obtain the title compound (0.161 g, yield: 87%) as pale yellow needles (melting point: 252-253° C.).

reactant | methyl 6-[(5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)carbamoyl]nicotinate | 0.194 g | C1=C(C=C2CCCC3CCCC1=C23)NC(=O)C2=NC=C(C(=O)OC)C=C2 | C21H22N2O3
reactant | sodium hydroxide | 2 N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-[(5,6,6a,7,8,9-Hexahydro-4H-2-phenalenyl)carbamoyl]nicotinic acid | 0.161 g, yield: 87% | C1=C(C=C2CCCC3CCCC1=C23)NC(=O)C2=NC=C(C(=O)O)C=C2 | C20H20N2O3
